US03976643
To 51 g (0.315 mole) of 2,6-dichloroaniline is added 0.4 mole of ethereal HCl and 200 ml of m-cresol. The mixture is then stirred and heated on a steam bath to drive off the ether and excess hydrogen chloride. To the resultant mixture is then added 17.7 g (0.315 mole) of methyl cyanamide then heated for 2 hours on a steam bath. The reaction mixture is then cooled, added to 150 ml of conc. sodium hydroxide solution, cooled and extracted with 2 liters of ether. The ether layer is washed with 2 × 1 liter of water, dried over sodium sulfate, charcoaled and evaporated. The residue is triturated with hexane and the precipitate is filtered off and washed with ether and dried to obtain 1-(2,6-dichlorophenyl)-3-methylguanidine hydrochloride.

reactant | 2,6-dichloroaniline | 0.315 mole, 51 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | HCl | 0.4 mole | Cl | ClH
reactant | m-cresol | 200 ml | C1=C(C=CC=C1O)C | C7H8O
reactant | methyl cyanamide | 0.315 mole, 17.7 g | CNC#N | C2H4N2
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 1-(2,6-dichlorophenyl)-3-methylguanidine hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)NC(=N)NC | InChI=1S/C8H9Cl2N3.ClH/c1-12-8(11)13-7-5(9)3-2-4-6(7)10;/h2-4H,1H3,(H3,11,12,13);1H
